2127-04-04 22:33:00 Physician Resident Progress Note
TITLE:  MICU RESIDENT accept / transfer note
   Chief Complaint: LLE pain/swelling, new diagnosis of DLBCL
   24 Hour Events:
   Mr. [**Name14 (STitle) 13803**] is a 67 year old male with a history of DM2, OSA, and
   nephrolithiasis who was recently seen at [**Hospital 358**] hospital for LLE pain
   and swelling, diagnosed with DLBCL, and transfered to [**Hospital1 19**] early this
   morning for tertiary care.  Please see MICU-[**Location (un) **] admission note.
   .
   Over the course of today the patient had an IVC filter placed by
   vascular surgery.  Neurology recommended MR head, spine, and LS plexus
   with and without gad to further evaluate extent of disease.  LLE
   symptoms are felt to be secondary to extrinsic compression by the tumor
   in the pelvis rather than compartment syndrome.  Patient had no further
   emesis and remained on heparin gtt.  GI requested NG lavage which
   patient declined.  Pathology reviewed OSH slides and confirmed
   diagnosis.  Heme-Onc evaluated patient and recommended starting
   chemotherapy with CHOP this evening which is why the patient is being
   transfered from MICU-[**Location (un) 144**] to the [**Hospital Unit Name 1**].  He has already been started
   on decadron.
   .
   On arrival to the ICU, the patient was comfortable, but overwhelmed by
   the events of the day.  He denied any current shortness of breath
   though he has had increasing shortness of breath with activity over the
   last couple of months.  He additional denied current chest pain,
   palpitations, nausea, abdominal pain, or LLE pain.  He does have pain
   in his left hip with movement.
   Allergies:
   Metformin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-4-4**] 09:45 AM
   Heparin Sodium - [**2127-4-4**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Wife is homebound.  Son is HCP.  [**Name (NI) **] has two other children but is not
   in frequent contact with them.  Wife is a Jehovah's witness.  Patient
   was for a time but is not currently practicing.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-4-4**] 10:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 121 (100 - 121) bpm
   BP: 150/67(86) {134/67(86) - 160/83(97)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
             1,753 mL
   PO:
             TF:
   IVF:
   1,753 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    575 mL
   Urine:
   575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,178 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Vitals: T: 98.2 BP: 134/76 P: 112 R: 18 O2: 94% RA
   General: Elderly caucasian male in no acute distress, appears tired.
   HEENT: Sclera anicteric, Pupils 2->1 bilaterally, MMM, oropharynx clear
   Neck: dressing over prior right-sided CVL site. Supple, JVP not
   elevated
   Lungs: Decreased breath sounds bilaterally. Clear to auscultation
   bilaterally, no wheezes, rales, ronchi
   CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: decreased bowel sounds, soft, non-tender, non-distended, no
   organomegaly
   Lymph: + bilateral enlarged inguinal lymph nodes with healing incision
   site in left inguinal canal.  No cervical, supraclavicular, axillary or
   epitrochlear lymphadenopathy.
   GU: + foley draining cherry punch-colored urine
   Ext: Entire left lower extremity is swollen and erythematous with
   superficial peeling of epidermis and tense skin.  Distal pulses not
   palpable.  Right lower extremity is warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Neuro: CNII-XII intact.  RLE 5/5 strength with flexion and extension
   about the ankle and knee.  LLE 3+/5 strength with flexion and extension
   of the foot.
   Labs / Radiology
   50 K/uL
   13.0 g/dL
   285 mg/dL
   1.3 mg/dL
   26 mEq/L
   5.1 mEq/L
   27 mg/dL
   107 mEq/L
   148 mEq/L
   37.7 %
   22.2 K/uL
        [image002.jpg]
                             [**2127-4-4**]  11:50 AM
                             [**2127-4-4**]  05:57 PM
   WBC
   21.9
   22.2
   Hct
   36.7
   37.7
   Plt
   46
   50
   Cr
   1.3
   1.3
   Glucose
   240
   285
   Other labs: PT / PTT / INR:14.3/78.7/1.2, CK / CKMB / Troponin-T:35/2/,
   ALT / AST:102/147, Alk Phos / T Bili:140/0.4, Lactic Acid:2.4 mmol/L,
   Albumin:4.0 g/dL, LDH:4630 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Imaging: [**2127-4-4**] AP CXR - Cardiomediastinal contours are normal. The
   lungs are clear. There is no pleural effusion or pneumothorax.
   .
   [**2127-4-4**] Bilat LENIs - Complete occlusive thrombus in the deep veins of
   the left leg extending into the CFV. No e/o DVT in the right lower
   extremity. Large inguinal lymph nodes.
   .
   [**2127-4-4**] CT abd/pelvis - Preliminary Report !! WET READ !!
   Massive confluent retroperitoneal and left common iliac chain and
   pelvic sidewall lymphadenopathy. Two small wedge-shaped hypodensities
   in the spleen, ?? infarct. Asymmetric opacification of the femoral
   veins c/w known left DVT. Normal opacification of the IVC above the
   confluence of the iliac veins, but mass effect on IVC [**3-4**]
   lymphadenopathy. Extensive subcutaneous edema in the left thigh.
   Assessment and Plan
   67 yo M with newly diagnosed DLBCL compressing vasculature and nerves
   to LLE with LLE DVT, thrombocytopenia and anemia.
   .
   #) Diffuse large B cell lymphoma: Lymph node pathology at OSH with
   diagnosis of DLBCL, confirmed by pathology here. Oncology recommended
   chemotherapy; no role for radiation at present. HIV and Hepatitis
   titers sent per heme/onc recs.  Bedside [**Month/Day (2) **] performed this evening with
   good EF per cardiologist (final read pending).  Concern for potential
   tumor lysis with elevated LDH.
   - f/u serologies
   - initiate chemotherapy this evening with CHOP per BMT recs
   - f/u final [**First Name9 (NamePattern2) **] [**Location (un) **]
   - Q6H tumor lysis labs
   - hydration with NaHCO3
   - allopurinol to decrease risk of urate nephropathy
   - MR head and spine with and without gad to evaluate for CNS
   involvement.
   .
   #) LLE DVT - felt secondary to venous stasis from lymphatic obstruction
   and malignancy. IVC filter placed due to extensive clot burden and
   limitations in anticoagulation given recent hematemesis and
   thrombocytopenia.
   - cont. heparin gtt but may need to be stopped if plt and hct drop
   further.
   .
   #) LLE swelling and weakness - initially concern for phlegmasia cerulea
   dolens due to lymph node obstruction of venous circulation.  CKs q8hr
   remained reassuringly non-elevated at 40 and 40. Symptoms now seem to
   be more likely related to extrinsic compression of vasculature and
   nerves from tumor burden and not compartment syndrome.  Decadron
   initiated.  Appreciate Vascular and Neurology recs.
   - f/u vascular recs
   - MRI LS plexus per neuro for further evaluation of tumor involvement.
   - stop decadron as patient is now getting prednisone with chemotherapy.
   .
   #) Hematemesis: noted in the ED, although patient has no history of GI
   bleeding previously. Thought to be due to potential gastric varices
   from lymphatic obstruction as well as thrombocytopenia. Hct dropped
   from 40.4 (ED) --> 36.7 (MICU). Treated with pantoprazole drip
   initially. Patient refused NGT and lavage. GI consulted and following,
   planned to scope but patient refused so no intervention for now.
   - PPI IV BID per GI recs
   - 2 Large bore PIVs
   - maintain active T&S (2 units reserved currently)
   - advance diet
   .
   #) Elevated LFTs: Rising ALT 49 --> 85, AST 100 --> 137, Alk phos 137
   --> 141. With LDH 4315. Concerning for hepatic ischemia related to
   lymphoma.
   - trend
   - RUQ ultrasound in am
   .
   # Leukocytosis: Elevated at 20 on admission.  Considered reactive
   process [**3-4**] DVT with thrombus vs infectious etiology (unclear source,
   afebrile) vs. malignancy. CXR clear.  UA and culture pending.  Most
   likely secondary to maliginancy.
   - f/u UA & culture
   - trend WBC count
   - follow temperature
   .
   # Anion Gap Metabolic Acidosis: Anion gap of 15 with elevated lactate
   of 2.4 earlier today. Gap down from 18 earlier today.  Concern for
   tumor lysis syndrome vs. tissue ischemia from tumor.
   - chemotherapy as above
   - trend tumor lysis labs Q6H
   - repeat lactate at midnight
   .
   # Thrombocytopenia:  New in recent weeks and noted on OSH admission.
   Likely secondary to lymphoma.
   - trend
   - maintain plt > 10 if not bleeding, >50 if bleeding
   .
   # Diabetes mellitus, type 2 - holding oral agents.  Likely exacerbated
   by decadron.
   - HISS
   .
   # Hematuria: Noted previously by patient.  Likely [**3-4**] thrombocytopenia
   and exacerbated by heparin gtt. Foley in place
   - monitor, may need bladder irrigation if urine output slows.
   .
   # HTN: Hold Lisinopril in setting of potentially unstable blood
   volume.
   .
   # Anxiety / Depression: A very active issue per patient and now with
   new diagnosis of malignancy.
   - Continue Risperidone
   - SW for coping
   .
   FEN: D5+150mEQ NaHCO3, replete electrolytes, regular diet
   .
   Prophylaxis: Subutaneous heparin, bowel regimen, IV PPI [**Hospital1 7**]
   .
   Access: PIV, PICC line requested
   .
   Code: Full code currently, discussed with patient.  After extensive
   discussion patient is also agreable to blood transfusions and
   understands that he will almost certainly need some as a result of the
   chemotherapy.
   .
   Communication: Patient, HCP = son [**Name (NI) **] [**Name (NI) 13804**] c: [**Telephone/Fax (1) 13805**]
   .
   Disposition: pending clinical improvement
 CANCER (MALIGNANT NEOPLASM), OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HEMOPTYSIS
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 THROMBOCYTOPENIA, ACUTE
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan. Transferred to [**Hospital Ward Name 57**] ICU from
   MICU 6 for initiation of chemorx.  67 yo with newly dx
d lymphoma has
   had IVC filter placed by Vascular Surgery. No further hemetemesis.
   Consented to chem. Therapy and to administration of blood products.
   98.6     116    138/76
   Alert, anxious
   Chest
 few basilar crackles
   CV w/o m
   Abd
 soft, BS present, w/o tenderness
   Extrem
 LLE
 swollen, disocolored, poor capillary refill
   Hct 38
   Plt 50k
   Ready to begin chemorx. We are continuing heparin while plt ct holds >
   50k and no evidence of further GIB.  He has a substantial clot burden
   and likely has had prior pulm emboli.  Recognizing risk of bleeding it
   is essential to maintain perfusion to L leg and heparin may assist.
   Hopefully mechanical obstruction will resolve rapidly on chemo and he
   can restore flow.
   Time spent 55 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2127-4-5**] 06:10 AM ------

2127-04-05 06:36:00 Physician Resident Progress Note
Chief Complaint: CC: LLE swelling
   [**Hospital Unit Name 1**] Admission: Inititaion of chemotherapy for new diagnosis of B cell
   lymphoma
   24 Hour Events:
   - [**Hospital Unit Name **] showed normal EF
   - PICC placed
   - Given first dose CHOP, with pretreatment hydration, steroids
   - Got D5W, with NaHCO3 @ 100cc/hr o/n
   - q6 hrs tumor lysis labs, normal
 PICC LINE - START [**2127-4-4**] 08:17 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsMetformin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-4-4**] 09:45 AM
   Heparin Sodium - [**2127-4-4**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-4-5**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 98 (98 - 121) bpm
   BP: 141/79(95) {108/59(70) - 160/83(97)} mmHg
   RR: 31 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.6 kg (admission): 77.3 kg
   Height: 66 Inch
             Total In:
                                                                  1,877 mL
                                                                    810 mL
   PO:
             TF:
   IVF:
                                                                  1,877 mL
                                                                    810 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    420 mL
   Urine:
                                                                    575 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,302 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   11.1 g/dL
   269 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.3 mEq/L
   30 mg/dL
   100 mEq/L
   140 mEq/L
   32.1 %
   23.9 K/uL
        [image002.jpg]
                             [**2127-4-4**]  11:50 AM
                             [**2127-4-4**]  05:57 PM
                             [**2127-4-4**]  11:55 PM
                             [**2127-4-5**]  04:40 AM
   WBC
   21.9
   22.2
   23.9
   Hct
   36.7
   37.7
   32.1
   Plt
   46
   50
   52
   Cr
   1.3
   1.3
   1.2
   1.2
   Glucose
   [**Telephone/Fax (3) 13808**]
   Other labs: PT / PTT / INR:14.4/84.6/1.3, CK / CKMB / Troponin-T:33/2/,
   ALT / AST:99/142, Alk Phos / T Bili:123/0.4, Lactic Acid:1.9 mmol/L,
   Albumin:4.0 g/dL, LDH:4833 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Imaging: CXR [**2127-4-4**]:
   REASON FOR EXAM: Lymphoma and hemetemesis.
   Cardiomediastinal contours are normal. The lungs are clear. There is no
   pleural effusion or pneumothorax.
   LE U/S [**2127-4-4**]:
   [**Doctor Last Name 53**]-scale and Doppler son[**Name (NI) **] of the bilateral common femoral,
   popliteal and calf veins was performed. There is normal flow,
   compressibility and augmentation of the right lower extremity veins.
   There is complete occlusive thrombus in the left deep venous system
   with extension into the most superiorly visualized portion of the
   common femoral vein. Extension of clot into the common iliac vessels is
   not assessed on this study. There are large inguinal lymph nodes
   bilaterally measuring 3.4 x 1.5 on the right and 2.3 x 2.8 x 1.7 on the
   left.
   IMPRESSION: Occlusive thrombus in the left deep venous system extending
   to the most superiorly visualized portion of the common femoral vein.
   No evidence of DVT in the right lower extremity. Bilateral inguinal
   lymphadenopathy. & DVT
   [**Name (NI) **] [**2127-4-5**] (prelim):The left atrium is normal in size. Left ventricular
   wall thicknesses are normal. The left ventricular cavity size is
   normal. Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded but the LV suystolic function
   appears to be hyperdynamic (LVEF 65-70%). Right ventricular chamber
   size and free wall motion are normal. The aortic valve leaflets (3)
   appear structurally normal with good leaflet excursion. The mitral
   valve appears structurally normal with trivial mitral regurgitation.
   There is no mitral valve prolapse. There is no pericardial effusion.
   CT Head [**2127-4-5**]:
   FINDINGS: There is no acute intracranial hemorrhage, major vascular
   territorial infarction, mass effect, or edema. The [**Doctor Last Name **]-white matter
   differentiation is preserved. Ventricles and sulci are normal in size
   and
   appearance. Globes and lenses are intact. Visualized paranasal sinuses
   and
   mastoid air cells are well aerated. No osseous abnormality is
   identified.
   IMPRESSION: No acute intracranial abnormality.
   Microbiology: [**2127-4-4**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2127-4-4**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
   67 yo M with newly diagnosed DLBCL compressing vasculature and nerves
   to LLE with LLE DVT, thrombocytopenia and anemia.
   .
   #) Diffuse large B cell lymphoma: Received first dose of CHOP last
   night. HIV and Hepatitis titers sent, Bedside [**Year (4 digits) **] performed this
   evening with good EF per cardiologist (final read pending).  Concern
   for potential tumor lysis with elevated LDH.
   - f/u serologies
   - CHOP therapy per BMT recs
   - f/u final [**First Name9 (NamePattern2) **] [**Location (un) **]
   - Q6H tumor lysis labs
   - hydration with NaHCO3
   - allopurinol to decrease risk of urate nephropathy
   - MR head and spine with and without gad to evaluate for CNS
   involvement.
   .
   #) LLE DVT - felt secondary to venous stasis from lymphatic obstruction
   and malignancy. IVC filter placed due to extensive clot burden and
   limitations in anticoagulation given recent hematemesis and
   thrombocytopenia.
   - cont. heparin gtt, stop if plt < 50, HCt < 30
   - monitor HCt, plts [**Hospital1 **]
   .
   #) LLE swelling and weakness - initially concern for phlegmasia cerulea
   dolens due to lymph node obstruction of venous circulation.  CKs q8hr
   remained reassuringly non-elevated at 40 and 40. Symptoms now seem to
   be more likely related to extrinsic compression of vasculature and
   nerves from tumor burden and not compartment syndrome.  Decadron
   given.  Appreciate Vascular and Neurology recs.
   - f/u vascular recs
   - MRI LS plexus per neuro for evaluation of tumor
   involvement/compression of nerves
   - continue prednisone with chemotherapy.
   .
   #) Anemia: Patient had episode of coffee ground emesis in the ED,
   although patient has no history of GI bleeding previously. Thought to
   be due to potential gastric varices from lymphatic obstruction as well
   as thrombocytopenia. Hct dropped from 40.4 (ED) --> 36.7 (MICU)
 32.1
   (now). Now on pantoprazole IV bid. Patient refused NGT and lavage and
   EGD.  GI following for now.
   - PPI IV BID per GI recs
   - 2 Large bore PIVs
   - maintain active T&S (2 units reserved currently)
   - advance diet
   - consider stopping heparin gtt
   .
   #) Elevated LFTs: Rising ALT 49 --> 85
 99, AST 100 --> 137
 142, Alk
   phos 137 --> 141
 123. With LDH 4315. Concerning for hepatic ischemia
   related to lymphoma. No portal vein thrombosis per yesterday
s CT.
   - trend LFTs
   .
   # Leukocytosis: Elevated at 20 on admission, now 23.9.  Considered
   reactive process [**3-4**] DVT with thrombus vs infectious etiology (unclear
   source, afebrile) vs. malignancy. CXR clear.  UA and culture pending.
   Most likely secondary to maliginancy.
   - f/u UA & culture
   - trend WBC count
   - follow temperature
   .
   # Anion Gap Metabolic Acidosis: Gap down 18 -> 14 -> 11 today.  Concern
   for tumor lysis syndrome vs. tissue ischemia from tumor.  Repeat
   lactate 1.9.
   - chemotherapy as above
   - trend tumor lysis labs Q6H
   .
   # Thrombocytopenia:  New in recent weeks and noted on OSH admission.
   Likely secondary to lymphoma.
   - trend
   - maintain plt > 10 if not bleeding, >50 if bleeding
   .
   # Diabetes mellitus, type 2 - holding oral agents.  Likely exacerbated
   by decadron.
   - HISS
   .
   # Hematuria: Noted previously by patient.  Likely [**3-4**] thrombocytopenia
   and exacerbated by heparin gtt. Foley in place
   - monitor, may need bladder irrigation if urine output slows.
   .
   # HTN: Hold Lisinopril in setting of potentially unstable blood
   volume.
   .
   # Anxiety / Depression: A very active issue per patient and now with
   new diagnosis of malignancy.
   - Continue Risperidone
   - SW for coping
   .
   FEN: D5+150mEQ NaHCO3, replete electrolytes, regular diet
   .
   Prophylaxis: Subutaneous heparin, bowel regimen, IV PPI [**Hospital1 7**]
   .
   Access: PIV, PICC line requested
   .
   Code: Full code currently, discussed with patient.  After extensive
   discussion patient is also agreable to blood transfusions and
   understands that he will almost certainly need some as a result of the
   chemotherapy.
   .
   Communication: Patient, HCP = son [**Name (NI) **] [**Name (NI) 13804**] c: [**Telephone/Fax (1) 13805**]
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-4-4**] 07:46 AM
   18 Gauge - [**2127-4-4**] 01:00 PM
   PICC Line - [**2127-4-4**] 08:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient, HCP = son [**Name (NI) **] [**Name (NI) 13804**] c: [**Telephone/Fax (1) 13805**]
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Pt seen and evaluated with team. Please see above note for details of
   history and exam.
   In addition:
   67 yr man transferred for initiation of chemo for diffuse B cell
   lymphoma.
   Admitted to [**Hospital1 358**] 1 mos ago for hematuria and noted to have inguinal
   nodes which were biopsied and lymphoma was Dx
   Yesterday admitted to [**Hospital1 358**] with L DVT with leg swelling,
   transferred for tertiary care.
   Plats 46K
   CT Head
 neg
   CT Abdomen
 diffuse adenopathy.
   Had IVC filter placed by vasc surgery.  Continued on heparin
   further UGI bleeding
   Seen by Neuro and GI. Refused endoscopy. Neuro felt that L Neuro
   deficits were from compression of nerve/vessels in femoral triangle.
   Seen also by Onc and started urgently on R-CAOP.
   Prehydrated/given allopurinol
   Exam:
   98.3  98 141/79  31  97% on RA
   +1300 ml
   Inguinal adenopathy
   L Leg grossly swollen, dry, erythematous
   WBC 23  81%P  13.7% lymphs  6% Mono
   Uric A 5.6
   CXR: Unremarkable
   ECHO
 grossly nl
   Plan:
   In ICU to monitor for tumor lysis syndrome
.So far, lytes okay but
   needs continued monitoring for at least 24 more hrs to assure stability
   before move to floor.
   Can wait on MRI until Monday unless BMT believes intrathecal therapy
   should study be pos, should be started this wknd
   On hep drip and has filter in place for L DVT
   Time Spent: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2127-4-5**] 09:46 ------
   Resident Physical Exam:
   General: Elderly caucasian male in no acute distress
   HEENT: Sclera anicteric, Pupils 2->1 bilaterally, MMM, oropharynx clear
   Neck: dressing over prior right-sided IJ site (site for placement of
   IVC filter) Supple, JVP not elevated
   Lungs: Decreased breath sounds bilaterally. Clear to auscultation
   bilaterally, no wheezes, rales, ronchi
   CV: regular rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: decreased bowel sounds, soft, non-tender, non-distended, no
   organomegaly
   Lymph: + bilateral enlarged inguinal lymph nodes with healing incision
   site in left inguinal canal.  No cervical, supraclavicular, axillary or
   epitrochlear lymphadenopathy.
   GU: + foley, red urine
   Ext: Entire left lower extremity is swollen and erythematous with
   superficial peeling of epidermis and tense skin.  Distal pulses not
   palpable.  Right lower extremity is warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Neuro: CNII-XII intact.  RLE 5/5 strength with flexion and extension
   about the ankle and knee.  LLE 3+/5 strength with flexion and extension
   of the foot.  Cannot lift leg off bed from hip.  0 L foot dorsiflexion.
   ------ Protected Section Addendum Entered By:[**Name (NI) 13814**] [**Name8 (MD) 953**], MD
   on:[**2127-4-5**] 11:41 ------

2127-04-06 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC placed
   - TTE showed normal EF, grossly normal prelim read.
   - Given first dose R-CHOP [**4-4**] at night, with pretreatment hydration
   - f/u q6 hrs tumor lysis labs: have been okay so far.
   - BMT recs- continue hydration, okay for MRI staging on Monday.
   - vasc sx recs
   - f/u SW recs
   - prelim urine culture: ENTEROCOCCUS SP >100,000 ORGANISMS; started on
   Nitrofuratoin 100 mg [**Hospital1 7**] x 10 days since increased WBC and persistent
   low grade temp and tachycardia.
   - f/u hep b & c serologies
   - Pt had rigors with rituxan infusion. Rate of infusion decreased and
   given 25 mg IV demerol x 1 with resolution.
   -UOP began to trail off around 8PM: 200ccs/hr --> 35/hr --> 25cc/hr at
   10 PM. Increased NaHCO3 from 100cc/hr to 150cc/hr to keep hydrated
   since TLS concern (UOP improved to 100cc/hr).
   -Repeat TL labs at MN showed normal UA and Ca of 6.5. Repleted Ca.
   Allergies:
   Metformin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-4-5**] 02:45 PM
   Meperidine (Demerol) - [**2127-4-5**] 03:15 PM
   Pantoprazole (Protonix) - [**2127-4-5**] 08:09 PM
   Morphine Sulfate - [**2127-4-5**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-4-6**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.5
   HR: 94 (94 - 136) bpm
   BP: 116/58(73) {87/34(48) - 134/95(100)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.6 kg (admission): 77.3 kg
   Height: 66 Inch
             Total In:
                                                                  4,469 mL
                                                                  1,410 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                  3,689 mL
                                                                  1,410 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                  1,240 mL
   Urine:
                                                                  1,205 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,264 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   General: Elderly caucasian male in no acute distress, appears tired.
   HEENT: Sclera anicteric, Pupils 2->1 bilaterally, MMM, oropharynx clear
   Neck: dressing over prior right-sided CVL site, hematoma stable.
   Supple, JVP not elevated
   Lungs: Decreased breath sounds bilaterally. Clear to auscultation
   bilaterally, no wheezes, rales, ronchi
   CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: NABS, soft, non-tender, non-distended, no organomegaly
   Lymph: + bilateral enlarged inguinal lymph nodes with healing incision
   site in left inguinal canal.  No cervical, supraclavicular, axillary or
   epitrochlear lymphadenopathy.
   GU: + foley
   Ext: Entire left lower extremity is swollen and erythematous with
   superficial peeling of epidermis and tense skin, improved from
   admission.  Distal pulses +.  Right lower extremity is warm, well
   perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   69 K/uL
   9.5 g/dL
   326 mg/dL
   1.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   32 mg/dL
   102 mEq/L
   148 mEq/L
   27.9 %
   25.5 K/uL
        [image002.jpg]
                             [**2127-4-4**]  11:50 AM
                             [**2127-4-4**]  05:57 PM
                             [**2127-4-4**]  11:55 PM
                             [**2127-4-5**]  04:40 AM
                             [**2127-4-5**]  11:43 AM
                             [**2127-4-5**]  06:34 PM
                             [**2127-4-5**]  11:41 PM
                             [**2127-4-6**]  05:41 AM
   WBC
   21.9
   22.2
   23.9
   26.8
   25.5
   Hct
   36.7
   37.7
   32.1
   28.6
   27.9
   Plt
   46
   50
   52
   48
   69
   Cr
   1.3
   1.3
   1.2
   1.2
   1.3
   1.5
   1.5
   1.3
   Glucose
   [**Telephone/Fax (3) 13828**]26
   Other labs: PT / PTT / INR:14.0/97.6/1.2, CK / CKMB / Troponin-T:33/2/,
   ALT / AST:77/173, Alk Phos / T Bili:121/0.4, Differential-Neuts:94.9 %,
   Lymph:3.0 %, Mono:1.6 %, Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:2.6
   g/dL, LDH:6025 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Microbiology: URINE CULTURE (Preliminary): ENTEROCOCCUS SP >100,000
   ORGANISMS
   Assessment and Plan
   Mr. [**Known lastname 13804**] is a 67 yo M with newly diagnosed DLBCL with tumor burden
   compressing vasculature and nerves to LLE causing LLE edema, pain and
   swelling, also noted to have a LLE DVT, thrombocytopenia and anemia.
   .
   #) Diffuse large B cell lymphoma: Received first dose of CHOP last
   night. HIV and Hepatitis titers sent, Bedside TTE performed this
   evening with good EF per cardiologist (final read pending).  Concern
   for potential tumor lysis with elevated LDH.
   - f/u serologies
   - R-CHOP therapy per BMT recs
   - Q6H tumor lysis labs (Ca of 6.5 repleted at MN)
   - hydration with NaHCO3; good UOP, could consider switch to NS.
   - Continue preventative allopurinol to decrease risk of nephropathy
   - MR head and spine with and without gad to evaluate for CNS
   involvement on Monday (ordered)
   .
   #) LLE DVT - felt secondary to venous stasis from lymphatic obstruction
   and malignancy. IVC filter placed due to extensive clot burden and
   limitations in anticoagulation given recent hematemesis and
   thrombocytopenia.  PLTs 69, HCT 27.9.
   -  Original plan was to cont. heparin gtt, and stop if plt < 50, HCT <
   30.  With HCT of 27.9, will continue to monitor pt on heparin gtt and
   consider stopping if PLTs drop below 50.
   - monitor HCT, plts [**Hospital1 **]
   .
   #) LLE swelling and weakness - initially concern for phlegmasia cerulea
   dolens due to lymph node obstruction of venous circulation.  CKs q8hr
   remained reassuringly non-elevated at 40 and 40. Symptoms now seem to
   be more likely related to extrinsic compression of vasculature and
   nerves from tumor burden and not compartment syndrome.  Decadron given
   initially, now pt on prednisone per R-CHOP regimen.  Appreciate
   Vascular and Neurology recs.
   - f/u vascular recs
   - MRI LS plexus per neuro for evaluation of tumor
   involvement/compression of nerves Monday.
   - continue prednisone with chemotherapy.
   .
   #) Anemia: Patient had episode of coffee ground emesis in the ED,
   although patient has no history of GI bleeding previously. Thought to
   be due to potential gastric varices from lymphatic obstruction as well
   as thrombocytopenia. Hct dropped from 40.4 (ED) --> 36.7 (MICU)
 27.9
   (now). Now on pantoprazole IV bid. Patient refused NGT and lavage and
   EGD.  GI following for now.
   - PPI IV BID per GI recs
   - 2 Large bore PIVs
   - maintain active T&S (2 units reserved currently)
   - advanced diet, doing well
   .
   #) Elevated LFTs: Rising ALT 49 --> 85
 99, AST 100 --> 137
 142, Alk
   phos 137 --> 141
 123. With LDH 4315. Concerning for hepatic ischemia
   related to lymphoma. No portal vein thrombosis per yesterday
s CT. LFTs
   trending down today except LDH which is elevated at 7375, likely
   secondary to tumor lysis .
   - Continue to trend LFTs
   - F/u hepatitis serologies
   .
   # Leukocytosis: Elevated at 20 on admission, now 25.5.  Initially
   considered reactive process [**3-4**] DVT with thrombus vs infectious
   etiology vs. malignancy. CXR clear.  UA and culture c/w enterococcal
   UTI. Patient does report one day of hematuria and dysuria prior to
   presenting to hospital.
   - Started nitrofuratoin 100 mg [**Hospital1 7**] x 10 days (day 1 = [**2127-4-6**]) for
   complicated (male) UTI as patient had persistent leukocytosis, low
   grade temps, and tachycardia.  Tailor antibiotics based on final
   sensitivities, and if patient noted to have ARF/TLS, consider switching
   to another antibiotic as macrobid can contribute to renal impairment.
   - trend WBC count
   .
   # Anion Gap Metabolic Acidosis: Gap down 18 -> 14 -> 16 today.  Concern
   for tumor lysis syndrome vs. tissue ischemia from tumor.  Repeat
   lactate yesterday 1.9.
   - chemotherapy as above
   - trend tumor lysis labs Q6H
   .
   # Thrombocytopenia:  New in recent weeks and noted on OSH admission.
   Likely secondary to lymphoma.
   - trend, 69 today.
   - maintain plt > 10 if not bleeding, >50 if bleeding
   .
   # Diabetes mellitus, type 2 - holding oral agents.  Likely exacerbated
   by decadron and prednisone.
   - HISS
   .
   # Hematuria: Noted previously by patient.  Likely [**3-4**] thrombocytopenia,
   UTI, and exacerbated by heparin gtt. Foley in place
   - monitor, may need bladder irrigation if urine output slows.
   .
   # HTN: Continue to hold Lisinopril in setting of potentially unstable
   blood volume with decreasing HCT/PLTs and hep gtt. SBPs have been in
   110s.
   .
   # Anxiety / Depression: A very active issue per patient and now with
   new diagnosis of malignancy.
   - Continue Risperidone
   - SW for coping
   .
   # Hypernatremia: Na 148 today from 138 yesterday. Likely secondary to
   sodium bicarb infusions vs. decreased po intake of free water.
   -Trend
   .
   Code: Full code (confirmed)
   .
   Communication: Patient, HCP = son [**Name (NI) **] [**Name (NI) 13804**] c: [**Telephone/Fax (1) 13805**]
   ICU Care
   Nutrition: Regular diet.
   FEN: D5+150mEQ NaHCO3, replete electrolytes prn
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2127-4-4**] 07:46 AM
   18 Gauge - [**2127-4-4**] 01:00 PM
   PICC Line - [**2127-4-4**] 08:17 PM
   Prophylaxis:
   DVT: Hep gtt
   Stress ulcer:  pantoprazole 40 mg IV bid.
   VAP:
   Comments:
   Communication:  Patient
   Code status:  FULL CODE
   Disposition:  [**Hospital Unit Name 1**] with call out to BMT possibly tomorrow if no e/o
   tumor lysis or sepsis.
   ------ Protected Section ------
   Pt seen and evaluated with team. Please see above for details of
   history and plan
   In addition:
   67 yr man with lymphoma here for monitoring during initiation of chemo
   Tumor lysis labs okay. Uric Acid has normalized.
   Urine culture pos for >100,000 enterococci
   Leg discomfort is less and able to move left leg more
   97.5   94  116/58  15  98% on 2 Liters
   Lungs Clear
   Cor
 II/VI sys murmur
   Abd
 soft BS active
   L L E
 swollen tender, erythematous
   Labs:  WBC 25.5
              Plats 69 K
              Creat 1.3
   Plan:
   Post  1^st cycle of Chemo
   Q6 tumor lysis labs
   MRI on Monday
   On hep drip for extensive DVT until plat <50K
   Able to transfer to O-Med today
   Switch Ab to Ampi t cover enterococcus
   Time Spent: 40
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2127-4-6**] 09:55 ------